US04822404
N-Acetyl-2,6-dichloro-N-(5,7-dimethyl-1,2,4-triazolo[1,5-a]-pyrimidin-2-yl)-benzenesulfonamide
A solution of 0.50 g (1.3 mmol) of 2,6-dichloro-N-(5,7-dimethyl-1,2,4-triazolo[1,5-a]pyrimidin-2-yl)benzenesulfonamide, 2.12 ml (22.5 mmol) of acetic anhydride and 0.18 ml (1.3 mmol) of triethylamine in 4 ml of DMF was heated at 85° C. for 3 days. After cooling to room temperature, the product separated from solution and was collected by filtration and dried in vacuo to yield 0.20 g (39 percent) of the desired product as a solid, mp 219°-222° C. The product was characterized by IR and NMR spectroscopy.

reactant | 2,6-dichloro-N-(5,7-dimethyl-1,2,4-triazolo[1,5-a]pyrimidin-2-yl)benzenesulfonamide | 1.3 mmol, 0.50 g | ClC1=C(C(=CC=C1)Cl)S(=O)(=O)NC1=NN2C(N=C(C=C2C)C)=N1 | C13H11Cl2N5O2S
reactant | acetic anhydride | 22.5 mmol, 2.12 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | triethylamine | 1.3 mmol, 0.18 ml | C(C)N(CC)CC | C6H15N
solvent | DMF | 4 ml | CN(C)C=O | C3H7NO
product | N-Acetyl-2,6-dichloro-N-(5,7-dimethyl-1,2,4-triazolo[1,5-a]-pyrimidin-2-yl)-benzenesulfonamide | 0.20 g, 39 percent | C(C)(=O)N(S(=O)(=O)C1=C(C=CC=C1Cl)Cl)C1=NN2C(N=C(C=C2C)C)=N1 | C15H13Cl2N5O3S
